US05719152
(S)-9-Bromo-5-[p-aminomethyl-o-(3-carboxypropyl)phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione hydrochloride
To a solution of (S)-9-Bromo-5-[p-tert-butoxycarbonylaminomethyl-o-(3-carboxypropyl) phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (103 mg, 0.164 mmol)in 1,4-dioxane (5 mL) was added 4N hydrogen chloride in 1,4-dioxane (5 mL) at room temperature. The mixture was stirred for 20 h at room temperature and concentrated. The residual solid was dried in vacuo to give 90 mg of the title compound (97%).

reactant | (S)-9-Bromo-5-[p-tert-butoxycarbonylaminomethyl-o-(3-carboxypropyl) phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.164 mmol, 103 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(NC2=C(C=C(C=C2)CNC(=O)OC(C)(C)C)CCCC(=O)O)=O | C29H33BrN4O7
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (S)-9-Bromo-5-[p-aminomethyl-o-(3-carboxypropyl)phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione hydrochloride | 90 mg, 97% | Cl.BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(NC2=C(C=C(C=C2)CN)CCCC(=O)O)=O | InChI=1S/C24H25BrN4O5.ClH/c25-16-9-15-5-6-17(29-22(15)19(10-16)28-23(33)24(29)34)11-20(30)27-18-7-4-13(12-26)8-14(18)2-1-3-21(31)32;/h4,7-10,17H,1-3,5-6,11-12,26H2,(H,27,30)(H,28,33)(H,31,32);1H/t17-;/m0./s1
